US07511055B2
(2-Ethyl-[1,7]naphthyridin-8-yl)-(4-methyl-thiazol-2-yl)-amine
To a solution of (2-chloro-[1,7]naphthyridin-8-yl)-(4-methyl-thiazol-2-yl)-amine (0.055 g, 0.20 mmol) in 2 ml dry tetrahydrofuran (purged with argon) were subsequently added tetrakis(triphenylphosphine)palladium (0.011 g, 0.0095 mmol) and a 1.0 M solution of diethylzinc in n-hexane (0.4 ml, 0.4 mmol). The reaction mixture was heated at reflux for 1 h. Cooling to room temperature was followed by quenching with saturated aqueous ammonium chloride solution at 0-5° C. The aquous layer was basified to pH 12 with 1 M aqueous sodium hydroxide solution and extracted with three portions of methyl-tert.-butyl ether. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated to dryness. Flash-chromatography gave the title compound (0.015 g, 28%) as light yellow solid, MS m/e (%): 271 (M+H+, 100).

reactant | (2-chloro-[1,7]naphthyridin-8-yl)-(4-methyl-thiazol-2-yl)-amine | 0.20 mmol, 0.055 g | ClC1=NC2=C(N=CC=C2C=C1)NC=1SC=C(N1)C | C12H9ClN4S
reactant | diethylzinc | C(C)[Zn]CC
reactant | n-hexane | 0.4 mmol, 0.4 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.0095 mmol, 0.011 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2-Ethyl-[1,7]naphthyridin-8-yl)-(4-methyl-thiazol-2-yl)-amine | 0.015 g, 28% | C(C)C1=NC2=C(N=CC=C2C=C1)NC=1SC=C(N1)C | C14H14N4S
